US09334366B2
To a solution of 1.7 g of NaOH in 80 ml of H2O:dioxane 1:1, 2.2 g (20 mmol) of hydroquinone are added. The solution is stirred for 15 min. Then, 3.5 g (24 mmol) of 3-bromopropanitrile is dropwise added. After complete addition, the mixture is heated up to reflux and stirred for 24 hours. 45 mL of a 1N HCl solution is added to the above mixture. The solution is extracted with ethylacetate and concentrated under reduced pressure to give 2.8 g of 4-(4-hydroxyphenoxy)butanenitrile which is used without further purification.

reactant | NaOH | 1.7 g | [OH-].[Na+]
reactant | hydroquinone | 20 mmol, 2.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 3-bromopropanitrile | 24 mmol, 3.5 g | C(CBr)C#N | C3H4BrN
reactant | HCl | 1N | Cl | ClH
reactant | H2O dioxane | 80 ml | O.O1CCOCC1
product | 4-(4-hydroxyphenoxy)butanenitrile | 2.8 g | OC1=CC=C(OCCCC#N)C=C1 | C10H11NO2
